US04923881
A mixture of 2,2-dibutyl-3,4-dihydro-5-hydroxy-(1(2H)-naphthalenone (2.643 g), 2-chloromethylquinoline (1.7 g), and potassium carbonate (1.67 g) in N,N-dimethylformamide (16 ml) was stirred at 80° C. for 4 hours. The cooled mixture was poured into water. The separated oil was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried, and concentrated in vacuo. The crude product was chromatographed on silica gel using 25% ethyl acetate in n-hexane as eluent to yield 2,2-dibutyl-3,4-dihydro-5-(2-quinolylmethoxy)-1(2H)-naphthalenone (3.09 g) as a pale yellow syrup.

reactant | 1(2H)-naphthalenone | 2.643 g | C1(CC=CC2=CC=CC=C12)=O | C10H8O
reactant | 2-chloromethylquinoline | 1.7 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | potassium carbonate | 1.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
product | 2,2-dibutyl-3,4-dihydro-5-(2-quinolylmethoxy)-1(2H)-naphthalenone | 3.09 g | C(CCC)C1(C(C2=CC=CC(=C2CC1)OCC1=NC2=CC=CC=C2C=C1)=O)CCCC | C28H33NO2
